US08541418B2
To a solution of compound II-AA in 400 mL of acetonitrile cooled in an ice-bath, DMAP (2.65 g) and (Boc)2O (51.8 g, 1.5 eq) were added. The mixture was stirred at rt overnight. Solvent was removed under reduced pressure and the resulting yellow oil was purified by MPLC to give 31 g of (R)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate (compound III-AA).

reactant | (Boc)2O | 51.8 g, 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetonitrile | 400 mL | C(C)#N | C2H3N
catalyst | DMAP | 2.65 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate | 31 g | O=C1CC[C@@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C12H19NO5
